US05360886
A. Preparation of ethyl-tri-p-tolylphosphonium bromide catalyst
Into a 1 liter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, are charged 250 gms (0.822 mole) of tri-p-tolylphosphine and 600 gms of xylene. The slurry is heated to 32° C., then 117 gms (1.073 mole) of ethyl bromide is added. This reaction mass is maintained at 32° C. for 1.5 hours, then heated to 45° C. and maintained at that temperature for 21 hrs, then heated to 65° C. and maintained at that temperature for 2 hours, then heated to 90° C. and maintained at that temperature for 2 hours. This mixture is cooled to 32° C., then 43.9 gms of ethyl bromide is added and mixed for 1 hour, then heated to 45° C. and maintained at that temperature for 18 hours, then cooled to 33° C. and an additional 15.7 gms of ethyl bromide is added and the temperature is maintained for 1 hour. The reaction mass is then heated to 45° C. and maintained at that temperature for 2 hours. The reaction material is then cooled to 50° C. and filtered. The solid phosphonium salt is washed with 200 gms of xylene resulting in 220 gms of clean phosphonium salt. The phosphonium salt has a melting point of 222°-224° C.

reactant | tri-p-tolylphosphine | 0.822 mole, 250 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | ethyl bromide | 1.073 mole, 117 gms | C(C)Br | C2H5Br
reactant | ethyl bromide | 43.9 gms | C(C)Br | C2H5Br
reactant | ethyl bromide | 15.7 gms | C(C)Br | C2H5Br
solvent | xylene | 600 gms | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl-tri-p-tolylphosphonium bromide | [Br-].C(C)[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C23H26P.BrH/c1-5-24(21-12-6-18(2)7-13-21,22-14-8-19(3)9-15-22)23-16-10-20(4)11-17-23;/h6-17H,5H2,1-4H3;1H/q+1;/p-1
